US08440689B2
A. (R)-Methyl 2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoate
A mixture of 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (3 g, 8.08 mmol), (5)-methyl 2-amino-4-methylpentanoate hydrochloride (2.94 g, 16.16 mmol), and N-isopropyl-N-methylpropan-2-amine (3.76 mL, 24.25 mmol) in ACN (50 mL) was stirred at 100° C. for 3 d. The solvent was removed and the resulting residue was used in the next step without further purification. [M+H] calc'd for C23H27ClFN3O5, 480. found, 480.

reactant | 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 8.08 mmol, 3 g | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C16H13Cl2FN2O3
reactant | (5)-methyl 2-amino-4-methylpentanoate hydrochloride | 16.16 mmol, 2.94 g | Cl.N[C@H](C(=O)OC)CC(C)C
reactant | N-isopropyl-N-methylpropan-2-amine | 24.25 mmol, 3.76 mL | C(C)(C)N(C(C)C)C | C7H17N
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | (R)-Methyl 2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanoate | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)OC)CC(C)C | C23H27ClFN3O5
